### PR TITLE
chore: speed up mul assoc theorem

### PR DESCRIPTION
**Pull request by plp127**
It's like 6 times faster now and doesn't need half a million heartbeats

### CODE REVIEW

File: CombinatorialGames/Game/Basic.lean [hunk 1]
```diff
@@ -177,27 +177,30 @@ theorem _root_.Set.prod_image_right {α β γ : Type*} (f : α → γ) (s : Set
...
-    abel_nf
-termination_by (x, y, z)
-decreasing_by igame_wf
+  induction x using IGame.ofSetsRecOn generalizing y z with | mk xL xR ihxl ihxr
+  induction y using IGame.ofSetsRecOn generalizing z with | mk yL yR ihyl ihyr
+  induction z using IGame.ofSetsRecOn with | mk zL zR ihzl ihzr
+  simp only [ofSets_mul_ofSets, mk_ofSets, Set.image_union, Set.image_image, mk_mulOption]
+  simp only [← Set.image_union, ← ofSets_mul_ofSets]
+  simp only [Set.prod_image_left, Set.prod_image_right, Set.union_prod, Set.prod_union]
+  simp only [← Equiv.prod_assoc_image, ← Set.image_union, Set.image_image, Equiv.prodAssoc_apply]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Basic.lean:187]: Can these be merged into a single `simp only`? (Or rather, is there a reason they're not?)

File: CombinatorialGames/Game/Basic.lean [hunk 2]
```diff
@@ -177,27 +177,30 @@ theorem _root_.Set.prod_image_right {α β γ : Type*} (f : α → γ) (s : Set
...
+    ac_rfl
+  simp only [e1, e2]
+  congrm !{?_ | ?_} <;>
+  · apply Set.image_congr
+    intro ⟨⟨x, y⟩, z⟩ hxyz
+    obtain ⟨hx, hy, hz⟩ : (x ∈ xL ∨ x ∈ xR) ∧ (y ∈ yL ∨ y ∈ yR) ∧ (z ∈ zL ∨ z ∈ zR) := by
+      simp only [mem_union, mem_prod] at hxyz
+      tauto
+    simp only [mulOption, mk_sub_mul, mk_add_mul, mk_mul_sub, mk_mul_add]
+    simp only [hx.elim (ihxl x) (ihxr x), hy.elim (ihyl y) (ihyr y), hz.elim (ihzl z) (ihzr z)]
```
Comment (vihdzp) [inline CombinatorialGames/Game/Basic.lean]: Same question here.

File: CombinatorialGames/Game/Basic.lean [hunk 3]
```diff
@@ -177,27 +177,30 @@ theorem _root_.Set.prod_image_right {α β γ : Type*} (f : α → γ) (s : Set
...
+  have e1 : (xL ×ˢ yL) ×ˢ zL ∪ (xR ×ˢ yR) ×ˢ zL ∪ ((xL ×ˢ yR) ×ˢ zR ∪ (xR ×ˢ yL) ×ˢ zR) =
+      (xL ×ˢ yL) ×ˢ zL ∪ (xL ×ˢ yR) ×ˢ zR ∪ ((xR ×ˢ yL) ×ˢ zR ∪ (xR ×ˢ yR) ×ˢ zL) := by
+    ac_rfl
+  have e2 : (xL ×ˢ yL) ×ˢ zR ∪ (xR ×ˢ yR) ×ˢ zR ∪ ((xL ×ˢ yR) ×ˢ zL ∪ (xR ×ˢ yL) ×ˢ zL) =
+      (xL ×ˢ yL) ×ˢ zR ∪ (xL ×ˢ yR) ×ˢ zL ∪ ((xR ×ˢ yL) ×ˢ zL ∪ (xR ×ˢ yR) ×ˢ zR) := by
+    ac_rfl
+  simp only [e1, e2]
+  congrm !{?_ | ?_} <;>
+  · apply Set.image_congr
+    intro ⟨⟨x, y⟩, z⟩ hxyz
```
Comment (vihdzp) [inline CombinatorialGames/Game/Basic.lean]: Does this work?
```suggestion
  · refine Set.image_congr fun ⟨⟨x, y⟩, z⟩ hxyz ↦ ?_
```

File: CombinatorialGames/Game/Basic.lean (hunk 1 above)
Comment (plp127) [reply CombinatorialGames/Game/Basic.lean:187]: I'm rewriting with the same theorem forwards and backwards. If you find a merging that works, please tell me.

File: CombinatorialGames/Game/Basic.lean (hunk 2 above)
Comment (plp127) [reply CombinatorialGames/Game/Basic.lean]: no, these can be merged

File: CombinatorialGames/Game/Basic.lean (hunk 3 above)
Comment (plp127) [reply CombinatorialGames/Game/Basic.lean]: yes, it does

File: CombinatorialGames/Game/Basic.lean (hunk 1 above)
Comment (vihdzp) [reply CombinatorialGames/Game/Basic.lean:187]: Fair enough, this works then.
